US07091353B2
A mixture of 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione (2.2 g, 8.0 mmol) and 4-nitrobenzoyl chloride (3.0 g, 16.0 mmol) in THF (80 mL) was heated to reflux for 15 h. To the mixture was added methanol (20 mL) to give a suspension. The suspension was filtered and washed with methanol (20 mL) to give N-[2-(2,6-Dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl]-4-nitro-benzamide as a white solid (2.5 g, 73% yield): mp, 298–300° C.; 1H NMR (DMSO-d6) δ 2.06–2.10 (m, 1H, CHH), 2.49–2.65 (m, 2H, CH2), 2.83–2.98 (m, 1H, CHH), 5.18 (dd, J=5.2, 12.6 Hz, 1H, NCH), 7.73 (d, J=7.2 Hz, 1H, Ar), 7.93 (t, J=8.0 Hz, 1H, Ar), 8.19–8.22 (m, 2H, Ar), 8.42–8.47 (m, 3H, Ar), 10.65 (s, 1H, NH), 11.18 (s, 1H, NH); 13C NMR (DMSO-d6) δ 21.99,30.92, 48.99, 119.30, 119.56, 124.06, 127.49, 129.01, 131.58, 135.77, 136.23, 138.96, 149.69, 163.65, 166.57, 167.48, 169.68, 172.72; Anal Calcd for C20H14N4O7: C, 56.88; H, 3.34; N, 13.27. Found: C, 57.15; H, 3.02; N, 13.22.

reactant | 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione | 8.0 mmol, 2.2 g | NC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O | C13H11N3O4
reactant | 4-nitrobenzoyl chloride | 16.0 mmol, 3.0 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | methanol | 20 mL | CO | CH4O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | N-[2-(2,6-Dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl]-4-nitro-benzamide | 2.5 g, 73% yield | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)NC(C1=CC=C(C=C1)[N+](=O)[O-])=O)=O)=O | C20H14N4O7
